US04499100
1-[(isopropyl)aminocarbonyl]-4-piperidone;
1-(cyclohexyloxycarbonyl)-4-piperidone, (from cyclohexylchloroformate and 4-piperidone); or

reactant | 1-(cyclohexyloxycarbonyl)-4-piperidone | C1(CCCCC1)OC(=O)N1CCC(CC1)=O | C12H19NO3
reactant | cyclohexylchloroformate | C1(CCCCC1)OC(=O)Cl | C7H11ClO2
reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
product | 1-[(isopropyl)aminocarbonyl]-4-piperidone | C(C)(C)NC(=O)N1CCC(CC1)=O | C9H16N2O2
